US04840965
A suspension of pyrogallol (126 g) and potassium carbonate (138 g) in dimethylformamide (500 mL) was stirred at 80° C. for 2 hours. 1,2-Dibromoethane (188 g) was then added dropwise over a 4 hour period and the resulting mixture was stirred at 80° C. overnight. Upon cooling, the mixture was filtered, and the filtrate was evaporated, dissolved in water (200 mL) and acidified with concentrated hydrochloric acid. The resulting mixture was extracted with toluene. The orgainc extract was washed with water, dried over sodium sulfate, filtered and evaporated. Fractional distillation (82° C., 0.05 mm) afforded 54.7 g of 2,6-ethylenedioxyphenol, as an oil. Similary, using the above procedure but substituting 1,3-dibromopropane for 1,2-dibromoethane 2,3-propylenedioxyphenol, mp 110°-111° C. was prepared.

reactant | pyrogallol | 126 g | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-Dibromoethane | 188 g | BrCCBr | C2H4Br2
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 2,6-ethylenedioxyphenol | 54.7 g | C1OC2=C(C(=CC=C2)OC1)O | C8H8O3
